US06288096B1
10.3 g (39.9 mmole) 4-(methylcarbonyloxy)phenetyl methanesulfonate, 5.37 g (44 mmole) p-hydroxybenzaldehyde and 10 g (72.5 mmole) potassium hydroxide were refluxed in 100 ml acetonitrile for 2 hours. The salts were filtered off and the solvents was evaporated. The residue was dissolved in ethyl acetate and washed with water 3 times, dried and evaporated in vacuo to give 10.8 g (yield 95%) of 4-[2-(4-formylphenoxy)ethyl]phenyl acetate.

reactant | 4-(methylcarbonyloxy)phenetyl methanesulfonate | 39.9 mmole, 10.3 g | CS(=O)(=O)OC1=CCC(C=C1)(OCC)OC(=O)C | C11H16O6S
reactant | p-hydroxybenzaldehyde | 44 mmole, 5.37 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium hydroxide | 72.5 mmole, 10 g | [OH-].[K+]
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 4-[2-(4-formylphenoxy)ethyl]phenyl acetate | 10.8 g, yield 95% | C(C)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C1)C=O | C17H16O4
